US07365079B2
(4) Preparation of 3-amino-5-[3-oxospiro[6-azaisobenzofuran-1(3H),1′-cyclohexan]-4′-yl]-2-phenacyl-2H-pyrazole
3-Amino-5-[3-oxospiro[6-azaisobenzofuran-1(3H),1-cyclohexan]-4′-yl]-1H-pyrazole (180 mg, 0.633 mmol), phenacyl chloride (150 mg, 0.94 mmol) and potassium carbonate (180 mg, 1.27 mmol) were stirred overnight at room temperature in N,N-dimethylformamide (10 mL). The mixture was stirred for further 1 hour at 80° C. The reaction solution was cooled down to room temperature and ethyl acetate was added thereto. The reaction solution was washed with water and saturated brine, and the organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo to remove the solvent. The residue was separated and purified by a silica gel column chromatography (C-300, methanol:chloroform=1:50 to 1:30) to obtain the title compound (26.5 mg, 10.4%) as a cis and trans mixture.

reactant | 3-Amino-5-[3-oxospiro[6-azaisobenzofuran-1(3H),1-cyclohexan]-4′-yl]-1H-pyrazole | 0.633 mmol, 180 mg | NC1=NNC(=C1)C1CCC2(CC1)OC(C1=CC=NC=C12)=O | C15H16N4O2
reactant | phenacyl chloride | 0.94 mmol, 150 mg | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
reactant | potassium carbonate | 1.27 mmol, 180 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-amino-5-[3-oxospiro[6-azaisobenzofuran-1(3H),1′-cyclohexan]-4′-yl]-2-phenacyl-2H-pyrazole | 26.5 mg, 10.4% | NC=1N(N=C(C1)C1CCC2(CC1)OC(C1=CC=NC=C12)=O)CC(=O)C1=CC=CC=C1 | C23H22N4O3
